US05929085
(d) (+)-1,2,3,5,6,10b-Hexahydropyrrolo[2,1-a]isoquinolin-9-amine hydrochloride
A suspension (+)-9-nitro-1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline hydrochloride (1.83 g, 7.18 mmol) and 10% Pd--C (0.2 g) in ethanol (150 ml) was hydrogenated at 50 psi for 0.75 h. The solution was filtered and the filtrate was concentrated to a volume of 25 ml. It was then heated to reflux to dissolve all of the solid and upon cooling the product precipitated. The title compound was isolated as a white solid (1.37 g, 85%), m.p. 239-41.5° C.; [α]D +62.5° (c 1.13, MeOH). This salt was a single enantiomer by chiral CE.

reactant | (+)-9-nitro-1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline hydrochloride | 7.18 mmol, 1.83 g | Cl.[N+](=O)([O-])C1=CC=C2CCN3C(C2=C1)CCC3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (+)-1,2,3,5,6,10b-Hexahydropyrrolo[2,1-a]isoquinolin-9-amine hydrochloride | Cl.C1CCN2C1C1=CC(=CC=C1CC2)N | InChI=1S/C12H16N2.ClH/c13-10-4-3-9-5-7-14-6-1-2-12(14)11(9)8-10;/h3-4,8,12H,1-2,5-7,13H2;1H
